US07973051B2
i) 5-Methoxy-4-methyl-thiazol-2-ylamine
Sodium methoxide was freshly prepared by dissolving 0.408 g (17.7 mmol) of sodium metal in 25 mL of abs. MeOH. After cooling to 0° C., 5-bromo-4-methyl-thiazol-2-ylamine (1.00 g, 5.18 mmol) was added and the cooling bath removed. After 15 Min., TLC indicated the absence of starting material. The reaction mixture was poured onto crashed ice/NH4Cl, twofold extracted with ethyl acetate, washed with water, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/ethyl acetate=1/1), yielded 0.441 g of the title compound as brown oil; it should be stored at −28° C.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | sodium | 17.7 mmol, 0.408 g | [Na] | Na
reactant | 5-bromo-4-methyl-thiazol-2-ylamine | 5.18 mmol, 1.00 g | BrC1=C(N=C(S1)N)C | C4H5BrN2S
solvent | MeOH | CO | CH4O
product | 5-Methoxy-4-methyl-thiazol-2-ylamine | 0.441 g | COC1=C(N=C(S1)N)C | C5H8N2OS
